US04221686
0.65 Mole of Sumiepoxy ELA-128 (an epoxy resin obtained by the reaction of bisphenol A with epichlorohydrin, epoxy equivalent 184-194; produced by Sumitomo Chemical Co., Ltd.), 0.17 g. of 2-methylhydroquinone and 1.3 moles of acrylic acid were successively charged into a 500 ml. four-necked flask, and the resulting mixture was sufficiently stirred. Further, 1.7 g. of triethylamine was added, and the mixture was heated to 110° C. while taking care of heat generation. The mixture was continuously stirred at said temperature for about 4 hours, and when the acid value had become less than 7, the reaction was completed. The reaction product was quickly cooled to about 60° C. and was incorporated and diluted with 0.066 g. of 2-methylhydroquinone and 133 g. of trimethylolpropane triacrylate to obtain a pale yellow, transparent liquid having a viscosity of Z6 to Z7 (as measured by use of the Gardener-Hodt Bubble viscometer at 25° C.). This liquid was named the compound (a).

reactant | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
product | Sumiepoxy ELA-128 | 0.65 Mole | CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O.C1C(O1)CCl | InChI=1S/C15H16O2.C3H5ClO/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;4-1-3-2-5-3/h3-10,16-17H,1-2H3;3H,1-2H2
